US04483861
(2,2-Dimethyl-1-oxopropoxy)methyl (4R)-3-[(2S)-S-benzoyl-3-mercapto-2-methylpropanoyl]-4-thiazolidinecarboxylate (Compound 64).
Under a nitrogen atmosphere, to the solution of 3.4 g of (4R)-3-[(2S)-S-benzoyl-3-mercapto-2-methylpropanoyl]-4-thiazolidinecarboxylic acid in 11 ml of dry N,N-dimethylformamide, 1.4 ml of triethylamine and 1.5 g of chloromethyl pivalate are added, and stirred at 90° C. for 6 hours. The reaction mixture is poured into 100 ml of ice-water, and extracted with ether. The organic layer is washed with saturated sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo to give oil, yield 4.8 g. The oil is purified by silica gel column chromatography to give the titled compound, yield 4.1 g (91%), mp. 69°-69.5° C. (benzene-n-hexane), [α]D25 -153.8° (c=1.0, methanol).

reactant | (4R)-3-[(2S)-S-benzoyl-3-mercapto-2-methylpropanoyl]-4-thiazolidinecarboxylic acid | 3.4 g | C(C1=CC=CC=C1)(=O)SC[C@H](C(=O)N1CSC[C@H]1C(=O)O)C | C15H17NO4S2
reactant | chloromethyl pivalate | 1.5 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | N,N-dimethylformamide | 11 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
product | (2,2-Dimethyl-1-oxopropoxy)methyl (4R)-3-[(2S)-S-benzoyl-3-mercapto-2-methylpropanoyl]-4-thiazolidinecarboxylate | C(C1=CC=CC=C1)(=O)SC[C@H](C(=O)N1CSC[C@H]1C(=O)OCOC(C(C)(C)C)=O)C | C21H27NO6S2
